US04666927
The p-nitrophenyl ester of N-benzylglycine (2 g) and N-(2-aminoethyl)-1,3-propanediamine (0.18 g) are dissolved in ethylacetate (30 ml). After standing for 1 hour, the mixture is filtered, evaporated and resulting solid triturated with diethyl ether. Recrystallisation of the product from ethanol yields N-[2-(benzylaminoacetamido)-ethyl]-3-(benzylaminoacetamido)-propylamine as a solid, νmax (nujol) 1680, 1630, 1540 cm-1 ; δ(d6DMSO) 1.5 (quintet, 2H), 2.5 (m, 4H), 3.1 (q, 4H), 3.6 (d, 4H), 5.0 (s, 4H), 7.3 (s, 10H), 7.4 (m, 2H), 7.7 (m, 2H).

reactant | N-benzylglycine | 2 g | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
reactant | N-(2-aminoethyl)-1,3-propanediamine | 0.18 g | NCCNCCCN | C5H15N3
solvent | ethylacetate | 30 ml | C(C)OC(C)=O | C4H8O2
product | N-[2-(benzylaminoacetamido)-ethyl]-3-(benzylaminoacetamido)-propylamine | C(C1=CC=CC=C1)NCC(=O)NCCNCCCNC(CNCC1=CC=CC=C1)=O | C23H33N5O2
